US04749704
(a) Dimethyl α-methoxyadipate
12.2 g of sodium methoxide were added to a solution of 38.0 g of dimethyl α-bromoadipate (prepared as described in the following Preparation) in 100 ml of methanol, and the mixture was stirred overnight at room temperature. After this, methanol was evaporated from the reaction mixture under reduced pressure, and diethyl ether was added to the resulting residue. The solution thus obtained was washed with water and dried over anhydrous sodium sulfate. The diethyl ether was evaporated off under reduced pressure, and the residue was distilled, to give 11.4 g of the title compound, boiling at 74°-79° C./1 mm Hg (133 Pa).

reactant | sodium methoxide | 12.2 g | C[O-].[Na+]
reactant | dimethyl α-bromoadipate | 38.0 g | BrC(C(=O)OC)CCCC(=O)OC | C8H13BrO4
solvent | methanol | 100 ml | CO | CH4O
product | Dimethyl α-methoxyadipate | 11.4 g | COC(C(=O)OC)CCCC(=O)OC | C9H16O5
